US05990346
Methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (388 mg, 0.5 mmol), palladium acetate (11.2 mg, 0.05 mmol), and triphenylphospine (26.2 g, 0.1 mmol) were dissolved in dimethylformamide (2 mL). To this were added methanol (810 μl, 20 mmol) and triethylamine (139 μl, 1 mmol). This was agitated in carbon monoxide atmosphere (1 atmosphere) at room temperature for 18 hours. 10 ml of water was added, the solution separated, and the aqueous phase was extracted with ether and the extract combined with the organic layer. The organic solution was washed with brine, then was dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure, then was purified by silica gel column chromatography (4% ethyl acetate/hexane) to obtain methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (134 mg, 38%).

reactant | Methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.5 mmol, 388 mg | FC(S(=O)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)(F)F | C35H65F3O7S2Si2
reactant | triphenylphospine | 0.1 mmol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 20 mmol, 810 μl | CO | CH4O
reactant | triethylamine | 1 mmol, 139 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.05 mmol, 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 10 ml | O | H2O
product | methyl (11R,12S,13E,15S,17R)-9-methoxycarbonyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 134 mg, 38% | COC(=O)C1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C36H68O6SSi2
